US07732618B2
c.) (4-Amino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester:
The sub-title compound was prepared by the method of example 1, step c.) using (4-nitro-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester (regioisomer 2) from step b.) and 10% Pd/C and was used in crude form without purification. MS: ESI (positive): 290 (M+H).

reactant | (4-nitro-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC=C2[N+](=O)[O-])CCC)=O | C16H21N3O4
catalyst | Pd/C | [Pd] | Pd
product | (4-Amino-2-propyl-benzoimidazol-1-yl)-acetic acid tert-butyl ester | C(C)(C)(C)OC(CN1C(=NC2=C1C=CC=C2N)CCC)=O | C16H23N3O2
